US08871758B2
Cyclohexyl-(8,8-dioxo-5-oxa-8lambda*6*-thia-7-azaspiro[3.5]non-6-en-6-yl)amine
Under inert gas, 200 mg of (1-hydroxycyclobutyl)methanesulfonamide were dissolved in 2.5 ml of NMP, and admixed at −10° C. with 0.61 ml of a 2 N solution of sodium bis(trimethylsilyl)amide in THF and, after stirring for 5 minutes, with a solution of 0.19 ml of cyclohexyl isothiocyanate in 0.5 ml of NMP. After stirring at constant temperature for 40 minutes, 215 mg of N-bromosuccinimide were added in 4 portions within 5 minutes, and the reaction solution was stirred for a further 15 minutes. The reaction mixture was diluted with 60 ml of water and extracted twice with 20 ml of ethyl acetate. The combined organic phases were washed with saturated aqueous sodium chloride solution, dried over MgSO4 and concentrated by rotary evaporation. The residue was purified in a purification laboratory by means of preparative HPLC. After lyophilization of the product-containing fractions, the product (114.7 mg) was thus obtained with a molecular weight of 272.4 g/mol (C12H20N2O3S); MS (ESI): m/e=273 (M+H+).

reactant | (1-hydroxycyclobutyl)methanesulfonamide | 200 mg | OC1(CCC1)CS(=O)(=O)N | C5H11NO3S
reactant | sodium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | cyclohexyl isothiocyanate | 0.19 ml | C1(CCCCC1)N=C=S | C7H11NS
reactant | N-bromosuccinimide | 215 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | NMP | 2.5 ml | CN1CCCC1=O | C5H9NO
solvent | THF | C1CCOC1 | C4H8O
solvent | NMP | 0.5 ml | CN1CCCC1=O | C5H9NO
solvent | water | 60 ml | O | H2O
product | Cyclohexyl-(8,8-dioxo-5-oxa-8lambda*6*-thia-7-azaspiro[3.5]non-6-en-6-yl)amine | 114.7 mg | C1(CCCCC1)NC=1OC2(CCC2)CS(N1)(=O)=O | C12H20N2O3S
